US07652015B2
[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloroethyl ester
Treat a cooled (0° C.) solution of the 5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine (5.68 g, 25 mmol) and pyridine (2.2 mL, 27.5 mmol) in THF (3 mL/mmol) with 2,2,2-trichloroethyl chloroformate (3.7 mL, 27.5 mmol). Maintain the reaction temperature at 0° C., and after 2 hours, add small portions of chloroformate (0.3 mL) and pyridine (0.2 mL). One hour later, dilute the reaction with water (150 mL) and extract with EtOAc (3×100 mL). Wash the combined organic phases with water (100 mL), saturated aq. NaHCO3 (50 mL), and saturated aq. sodium chloride (50 mL). Recrystallize the crude syrup from ethyl acetate/hexanes to provide the title compound as a white solid (8.18 g, 20.3 mmol; 81%). LCMS (ES+): m/z=402.2/404.2 [M+H].

reactant | 5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine | 25 mmol, 5.68 g | CC1(CC1)C=1C=C(N(N1)C1=CC=C(C=C1)C)N | C14H17N3
reactant | pyridine | 27.5 mmol, 2.2 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 27.5 mmol, 3.7 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | chloroformate | 0.3 mL | ClC(=O)[O-]
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | [5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloroethyl ester | 20.3 mmol, 8.18 g, 81% | ClC(COC(NC=1N(N=C(C1)C1(CC1)C)C1=CC=C(C=C1)C)=O)(Cl)Cl | C17H18Cl3N3O2
